US06759550B1
The following materials were charged to the reactor: p-xylene 10 g; water 640 g, acetic acid 0.0 g, Co(CH3CO2)2 6H2O 1.08 g, Mn(CH3CO2)2 6H2O 3.37 g, 48% aqueous HBr 6.2 g, methanesulfonic acid 2.0 mL, for a total weight of 678 g. 1.3 g (active basis) Witconate AOS-2024™ surfactant was added. The pH of the reaction mixture was approximately 1.8. The reaction was stirred at 1600 rpm. The following results were obtained: mass solids 5.99 g (37% yield of terephthalic acid based on xylene, 37% conversion of p-xylene; 1H NMR analysis shows: 100 mol % terephthalic acid}. Thus, improved results are obtained at a relatively lower pH.

reactant | p-xylene | 10 g | CC=1C=CC(=CC1)C | C8H10
reactant | water | 640 g | O | H2O
reactant | methanesulfonic acid | 2.0 mL | CS(=O)(=O)O | CH4O3S
reactant | acetic acid | 0.0 g | C(C)(=O)O | C2H4O2
product | terephthalic acid | 37% yield | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
